US04377695
11-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid methyl ester
The product is produced as described in example 1 from 1.3 g. of NaH (80% suspension in mineral oil), 10 g. of 1-phenylbenzimidazolin-2-one, 200 cc. of DMF, 13.3 g. of 11-bromoundecanoic acid methyl ester and 1.3 g. of NaJ. Eluant in chromatographic purification: hexane/ethylacetate.

reactant | NaH | [H-].[Na+]
reactant | 1-phenylbenzimidazolin-2-one | C1(=CC=CC=C1)N1C(NC2=C1C=CC=C2)=O | C13H10N2O
reactant | 11-bromoundecanoic acid methyl ester | COC(CCCCCCCCCCBr)=O | C12H23BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 11-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid methyl ester | COC(CCCCCCCCCCN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C25H32N2O3
